US04728633
0.1 Mole of dimethyl 4-nitrophthalate and 0.1 mole of sodium phenolate were reacted with each other in a solvent of dimethylformamide at 100° C. over a 3-hour period under a stream of nitrogen. After being allowed to stand at room temperature and thereby cooled, the reaction mixture was poured into a dilute aqueous solution of hydrochloric acid, and extracted with ethyl acetate. The solvent was distilled away from the extract to yield dimethyl 4-phenoxyphthalate. Then, dimethyl 4-phenoxyphthalate thus-obtained was refluxed in a mixture of ethanol and an aqueous solution of potassium hydroxide to result in conversion into 4-phenoxyphthalic acid. Thereafter, the acid underwent reaction in an acetic acid/acetic anhydride mixture at a temperature of 100° C., and the solvent was distilled away from the reaction solution to yield 4-phenoxyphthalic anhydride. Subsequently, equimolar amounts of 4-phenoxyphthalic anhydride. Subsequently, equimolar amounts of 4-phenoxyphthalic anhydride and m-diethylaminophenol were refluxed in toluene to yield a 2-(2-hydroxy-4-diethylaminobenzoyl)-4- or -5-aryloxybenzoic acid.

reactant | dimethyl 4-nitrophthalate | 0.1 Mole | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H9NO6
reactant | sodium phenolate | 0.1 mole | C1(=CC=CC=C1)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | dimethyl 4-phenoxyphthalate | O(C1=CC=CC=C1)C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C16H14O5
